US05908858
86(i) 3,4-Dimethyl-N-(4-sulfamoylbenzylidene)aniline
Following a procedure similar to that described in Example 1(i), but using 4-sulfamoylbenzaldehyde and 3,4-dimethylaniline as starting materials, the title compound was obtained as a yellow powder (yield 60%).

reactant | 4-sulfamoylbenzaldehyde | S(N)(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | 3,4-dimethylaniline | CC=1C=C(N)C=CC1C | C8H11N
product | 3,4-Dimethyl-N-(4-sulfamoylbenzylidene)aniline | CC=1C=C(N=CC2=CC=C(C=C2)S(N)(=O)=O)C=CC1C | C15H16N2O2S
